US05965740
To 0.50 g (1.5 mmol) of 2-(4-chloro-2-methylphenoxymethyl)phenyl-2-methoxyacetic acid hydrazide was added 1.5 ml of ethyl orthoformate, stirred under reflux for 3 hours, and thereafter concentrated under reduced pressure. To the residue thus obtained, 4.5 ml of benzene and 0.03 g (0.15 mmol) of p-toluenesulfonic acid monohydrate were added and stirred under reflux for an hour. After completion of the reaction, 100 ml of water was added and extracted twice with 50 ml of dichloromethane. The dichloromethane layer was dried over anhydrous magnesium and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane) to give 2-[2-(4-chloro-2-methylphenoxymethyl)-α-methoxybenzyl]-1,3,4-oxadiazole (0.07 g, 13.5%) as colorless crystals. mp. 68-70° C.

reactant | 2-(4-chloro-2-methylphenoxymethyl)phenyl-2-methoxyacetic acid hydrazide | 1.5 mmol, 0.50 g | ClC1=CC(=C(OCC2=C(C=CC=C2)C(C(=O)NN)OC)C=C1)C | C17H19ClN2O3
reactant | ethyl orthoformate | 1.5 ml | C(OCC)([O-])[O-]
reactant | benzene | 4.5 ml | C1=CC=CC=C1 | C6H6
reactant | p-toluenesulfonic acid monohydrate | 0.15 mmol, 0.03 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | 100 ml | O | H2O
product | 2-[2-(4-chloro-2-methylphenoxymethyl)-α-methoxybenzyl]-1,3,4-oxadiazole | 0.07 g, 13.5% | ClC1=CC(=C(OCC2=C(C(OC)C=3OC=NN3)C=CC=C2)C=C1)C | C18H17ClN2O3
